US06953787B2
N-Trifluoroacetyl-7-allyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.150 g, 0.426 mmol) in dichloromethane (5 mL) was treated with allyl bromide (0.155 g, 1.28 mmol) and DBU (0.195 g, 1.28 mmol) and then stirred 2 hours at 20 C. The product mixture was diluted with EtOAc (50 mL), washed with 5% aqueous HCl (20 mL), brine (20 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 0.149 g of a clear oil. 1H NMR (400 MHz, CDCl3, mixture of rotamers) d 7.34 (s, 1 H), 6.65 (m, 1 H), 6.04 (m, 1 H), 5.47 (d, J=17 Hz, 1 H), 5.30 (d, J=9 Hz, 1 H), 4.59 (s, 2 H), 3.80 (m, 1 H), 3.6−3.3 (m, 3 H), 3.2−2.8 (m, 4 H), 1.31 (m, 3 H). MS calculated for C16H17BrF3NO2+H: 392, observed: 392.

reactant | N-trifluoroacetyl-8-bromo-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.426 mmol, 0.150 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)Br)(F)F | C13H13BrF3NO2
reactant | allyl bromide | 1.28 mmol, 0.155 g | C(C=C)Br | C3H5Br
reactant | DBU | 1.28 mmol, 0.195 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-7-allyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.149 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OCC=C)Br)(F)F | C16H17BrF3NO2
